US04546113
Methyl p-Cyanobenzoylacetate
Dimethyl carbonate (126 g, 1.4 moles) was added dropwise to a slurry of NaH (50% in mineral oil, 13.44 g, 0.28 mole) slurried in 280 ml of dry dioxane. The reaction mixture was warmed to 80°-85° and p-cyanoacetophenone (40.7 g, 0.28 mole) in 140 ml dioxane added dropwise (at about 3/4 addition, mechanical loss due to foaming occurred; such losses are avoided by slower addition, e.g., over 1 hour). After addition was complete, heating at 80° was continued for 2 hours and crude product recovered by hot filtration. The cake was distributed between dilute CH3CO2H and ether. The ether layer was separated; washed in sequence with H2O, saturated NaHCO3, H2O and brine; dried; and stripped to yield title product: 39 g, (68.6%); m.p. 93°-98°; tlc (4:1 toluene:ethyl acetate) Rf 0.58. Recrystallization of 0.5 g from 2-propanol gave 0.403 g; m.p. 96°-99°.

reactant | Dimethyl carbonate | 1.4 moles, 126 g | C(OC)(OC)=O | C3H6O3
reactant | NaH | 0.28 mole, 13.44 g | [H-].[Na+]
reactant | p-cyanoacetophenone | 0.28 mole, 40.7 g | C(#N)C1=CC=C(C=C1)C(C)=O | C9H7NO
solvent | dioxane | 280 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 140 ml | O1CCOCC1 | C4H8O2
product | Methyl p-Cyanobenzoylacetate | C(#N)C1=CC=C(C(=O)CC(=O)OC)C=C1 | C11H9NO3
